US07037905B2
2-(3-Chloro-4-fluorophenyl)-[1,3,6,2]dioxazaborocane
The title compound (87%, oil) was prepared from 3-chloro-4-fluorophenylboronic acid and diethanolamin.

reactant | 3-chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(3-Chloro-4-fluorophenyl)-[1,3,6,2]dioxazaborocane | 87% | ClC=1C=C(C=CC1F)B1OCCNCCO1 | C10H12BClFNO2
